US08975400B2
7-((3-fluoro-4-(5-methyl-1H-imidazol-1-yl)benzyl)oxy)-1-methyl-2,3-dihydroimida-zo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using NaH (17.46 mg, 0.727 mmol), (3-fluoro-4-(5-methyl-1H-imidazol-1-yl)phenyl)methanol (100 mg, 0.485 mmol) in THF (8 mL) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]-pyrimidin-5(1H)-one (90 mg, 0.485 mmol).

reactant | NaH | 0.727 mmol, 17.46 mg | [H-].[Na+]
reactant | (3-fluoro-4-(5-methyl-1H-imidazol-1-yl)phenyl)methanol | 0.485 mmol, 100 mg | FC=1C=C(C=CC1N1C=NC=C1C)CO | C11H11FN2O
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]-pyrimidin-5(1H)-one | 0.485 mmol, 90 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 7-((3-fluoro-4-(5-methyl-1H-imidazol-1-yl)benzyl)oxy)-1-methyl-2,3-dihydroimida-zo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=CC1N1C=NC=C1C | C18H18FN5O2
